US04487626
A mixture of 6.0 g 3-carbethoxy-5-hexyn-2-one and 3.6 g guanidine carbonate was heated in 9 ml dimethylsulfoxide under a nitrogen atmosphere at 140° for 4 hours. The ethanol produced in the reaction was removed as it was formed by distillation. After cooling to room temperature, acetone was added then the crystalline solid was collected then rinsed with water to yield 2.6 g of 4,6-dimethylfuro[2,3-d]pyrimidine; m.p. 262°-263°. Absorptions at 2.55 (singlet), 2.82 (singlet) and 6.58 (broadened singlet) ppm in the nuclear magnetic resonance spectrum (60 MHz) indicated the title compound.

reactant | 3-carbethoxy-5-hexyn-2-one | 6.0 g | C(=O)(OCC)C(C(C)=O)CC#C | C9H12O3
reactant | guanidine carbonate | 3.6 g | C(O)(O)=O.NC(=N)N
reactant | ethanol | C(C)O | C2H6O
reactant | acetone | CC(=O)C | C3H6O
solvent | dimethylsulfoxide | 9 ml | CS(=O)C | C2H6OS
product | 4,6-dimethylfuro[2,3-d]pyrimidine | 2.6 g | CC=1C2=C(N=CN1)OC(=C2)C | C8H8N2O
